US04080326
A mixture of citric acid monohydrate (126.0 g) and diethylguanidine sulphate (82.0 g) was added to 15% oleum (250 ml), keeping the temperature below 30° C by external cooling. After stirring at the ambient temperature for 15 minutes to complete solubilisation the solution was heated at 70° C for 80 minutes, cooled by external cooling to 0° C, and carefully diluted with water (350 ml) and with ammonia solution (s.g. 0.880, 600 ml). The resulting slurry was heated to reflux, methyl isobutyl ketone (10 ml) being added to prevent excessive frothing. Refluxing was continued for 16 hours, after which the mixture was cooled to 70°-80° C and methyl isobutyl ketone (600 ml) added to dissolve the precipitate. The ketonic phase was separated, washed with water (2 × 100 ml) whilst still hot, and then cooled and dried over anhydrous magnesium sulphate. Evaporation of the solvent yielded chromatographically pure 4-hydroxy-2-diethylamino-6-methylpyrimidine, melting point 133°- 135° C.

reactant | citric acid monohydrate | 126.0 g | O.C(CC(O)(C(=O)O)CC(=O)O)(=O)O
reactant | diethylguanidine sulphate | 82.0 g | S(=O)(=O)(O)O.C(C)NC(NCC)=N
reactant | oleum | 250 ml | OS(=O)(=O)O.O=S(=O)=O
reactant | methyl isobutyl ketone | 10 ml | C(C(C)C)C(=O)C | C6H12O
reactant | methyl isobutyl ketone | 600 ml | C(C(C)C)C(=O)C | C6H12O
solvent | water | 350 ml | O | H2O
solvent | ammonia | 600 ml | N | H3N
product | 4-hydroxy-2-diethylamino-6-methylpyrimidine | OC1=NC(=NC(=C1)C)N(CC)CC | C9H15N3O
